US03941826
4-Bromo-2,5-diisopropylbenzene sulfonyl chloride was prepared as follows: Chlorosulfonic acid, 154 g, was added over 15 minutes to 80 g of 2,5-diisopropylbromobenzene in 200 ml of carbon tetrachloride. The reactants were stirred for 30 minutes longer and then poured onto a mixture of ice and saturated sodium chloride solution. The organic layer was washed with cold water and dried over magnesium sulfate. Removal of the solvent gave 105 g of crystalline product. Recrystallization from n-hexane gave pure 4-bromo-2,5-diisopropylbenzene sulfonyl chloride, which softened at 77°C and melted at 80.5°-83°C.

reactant | Chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | 2,5-diisopropylbromobenzene | C(C)(C)C1=C(C=C(C=C1)C(C)C)Br | C12H17Br
reactant | sodium chloride | [Cl-].[Na+]
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromo-2,5-diisopropylbenzene sulfonyl chloride | BrC1=CC(=C(C=C1C(C)C)S(=O)(=O)Cl)C(C)C | C12H16BrClO2S
